US05298520
1. 1-(4-Nitrophenyl)methyl-2-methylimidazole
Sodium hydride (2.45 g; 61.0 mmol, 60% dispersion in oil) was added to a solution of 2-methylimidazole (5.0 g, 60.9 mmol) in DMF (100 ml). The mixture was stirred at room temperature for 0.25 h before adding 4-nitrobenzyl bromide (13.2 g, 61.0 mmol) and heating at 110° C. for 2 h followed by stirring at room temperature for 16 h. Water (200 ml) and ethyl acetate (500 ml) were added, the aqueous separated and extracted with ethyl acetate (2×500 ml). The combined extracts were washed with water (3×250 ml), dried (MgSO4) and evaporated. The crude product was chromatographed on silica gel eluting with CH2Cl2 /MeOH (4%) to give the title-product (1.58 g, 10.5%); δ (360 MHz, CDCl3) 2.34 (3H, s, Me); 5.16 (2H, s, CH2); 6.67 (1H, d, J= 1.3 Hz, Ar-H); 7.03 (1H, d, J=1.3 Hz, Ar-H); 7.19 (2H, d, J=9.5 Hz, Ar-H); 8.22 (2H, d, J=9.5 Hz, Ar-H).

reactant | Sodium hydride | 61.0 mmol, 2.45 g | [H-].[Na+]
reactant | 2-methylimidazole | 60.9 mmol, 5.0 g | CC=1NC=CN1 | C4H6N2
reactant | 4-nitrobenzyl bromide | 61.0 mmol, 13.2 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | Water | 200 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Nitrophenyl)methyl-2-methylimidazole | 1.58 g, 10.5% | [N+](=O)([O-])C1=CC=C(C=C1)CN1C(=NC=C1)C | C11H11N3O2
